US08383644B2
(3S,8S)-3-(4-Cyclohexylmethoxy-phenyl)-8-{(S)-2-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-1-methoxycarbonyl-ethylcarbamoyl}-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester (86 mg) was dissolved in 3 mL DCM and 3 mL 4 N HCl (dioxane) was added. The mixture stirred at room temperature for 3 hours, and the mixture was concentrated. DCM was added and the mixture was again concentrated. The solid was triturated with diethyl ether and dried under vacuum to provide (S)-2-{[(3S,8S)-3-(4-cyclohexylmethoxy-phenyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester bis hydrochloride (71 mg). LCMS: (m/z) 691.

reactant | (3S,8S)-3-(4-Cyclohexylmethoxy-phenyl)-8-{(S)-2-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-1-methoxycarbonyl-ethylcarbamoyl}-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester | 86 mg | C(C)(C)(C)OC(=O)N1CC=2C=C3C(=CC2C[C@H]1C(N[C@@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)C(=O)OC)=O)OC[C@@H](O3)C3=CC=C(C=C3)OCC3CCCCC3 | C47H55N3O8
reactant | HCl | 4 N, 3 mL | Cl | ClH
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-{[(3S,8S)-3-(4-cyclohexylmethoxy-phenyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester bis hydrochloride | 71 mg | Cl.Cl.COC([C@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)NC(=O)[C@H]1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3CCCCC3)=O | InChI=1S/C42H47N3O6.2ClH/c1-26-27(2)43-18-17-35(26)30-11-9-28(10-12-30)19-37(42(47)48-3)45-41(46)36-20-32-21-38-39(22-33(32)23-44-36)51-40(25-50-38)31-13-15-34(16-14-31)49-24-29-7-5-4-6-8-29;;/h9-18,21-22,29,36-37,40,44H,4-8,19-20,23-25H2,1-3H3,(H,45,46);2*1H/t36-,37-,40+;;/m0../s1
